US09216980B2
Preparation of 4-(4-Bromophenyl)-4-fluoropiperidine-1-carboxylic acid tert-butyl ester
[Bis(2-Methoxyethyl)amino]sulfur trifluoride (2.1 mL, 11.4 mmol) was added to a stirred solution of 4-(4-bromophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester (810 mg, 2.28 mmol) in anhydrous DCM (25 mL), at −78° C. The reaction mixture was allowed to warm to ambient temperature and stirred for 72 h. The reaction mixture was quenched by the addition of saturated aqueous potassium carbonate (10 mL) and extracted into DCM (3×10 mL). The combined organic phase was concentrated in vacuo and the residue purified by flash chromatography (silica, 40 g column, ISCO, 0-100% ethyl acetate in cyclohexane) to afford the title compound as a colourless oil (738 mg, 91%). 1H NMR (CDCl3, 300 MHz): 7.50 (d, J=8.5 Hz, 2H), 7.24 (d, J=8.5 Hz, 2H), 4.19-4.05 (m, 2H), 3.29-3.05 (m, 2H), 2.04-1.84 (m, 4H), 1.49 (s, 9H). LCMS (Method B): RT=4.55 min.

reactant | [Bis(2-Methoxyethyl)amino]sulfur trifluoride | 11.4 mmol, 2.1 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 4-(4-bromophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 2.28 mmol, 810 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Br | C16H22BrNO3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromophenyl)-4-fluoropiperidine-1-carboxylic acid tert-butyl ester | 738 mg, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)(F)C1=CC=C(C=C1)Br | C16H21BrFNO2
